US07776869B2
To a suspension of NaH (0.42 g 60% in mineral oil, 10.5 mmol) in DMF (8.0 mL) was slowly added 2-ethoxylphenol (1.34 g, 9.7 mmol) in MeCN (4.0 mL) at 0° C. under N2. After the addition, the reaction mixture was allowed to warm up to room temperature for 0.5 hour. 5-bromo-2,4-dichloropyrimidine (2.0 g, 8.8 mmol) in MeCN (16.0 mL) was slowly added and then the resulting reaction mixture was stirred at room temperature for 24 hour. EtOAc (120 mL) was added and washed with NaOH (30 mL, 0.5N) and brine (25×2 mL). The organic layer was dried with MgSO4, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (10% to 30% EtOAc in Hexanes, gradient elution) to provide the 5-bromo-2-chloro-4-(2-ethoxyphenoxy)pyrimidine. MS m/z=330 [M+1]+. Calc'd for: C12H10BrClN2O2: 329

reactant | NaH | 10.5 mmol, 0.42 g | [H-].[Na+]
reactant | 2-ethoxylphenol | 9.7 mmol, 1.34 g | O(CC)C1=C(C=CC=C1)O | C8H10O2
reactant | 5-bromo-2,4-dichloropyrimidine | 8.8 mmol, 2.0 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | EtOAc | 120 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 8.0 mL | CN(C)C=O | C3H7NO
solvent | MeCN | 4.0 mL | CC#N | C2H3N
solvent | MeCN | 16.0 mL | CC#N | C2H3N
product | 5-bromo-2-chloro-4-(2-ethoxyphenoxy)pyrimidine | BrC=1C(=NC(=NC1)Cl)OC1=C(C=CC=C1)OCC | C12H10BrClN2O2
